US07582638B2
5-Pentafluoroethyl-2-p-tolyl-2H-pyrazol-3-ylamine
Heat a mixture of 4,4,5,5,5-pentafluoro-3-oxo-pentanenitrile (4 g, 21.4 mmol) and p-tolyl-hydrazine (10 g, 64.1 mmol) in ethanol (20 mL) to 95° C. in a sealed tube apparatus for 15 hours. After cooling to room temperature, remove the solvent under reduced pressure to give a brown residue. Subject residue to silica gel chromatography eluting with ethyl acetate and hexanes to give the title compound (3.24 g, 52% yield, ES+(m/z) 292.1 [M+H]).

reactant | 4,4,5,5,5-pentafluoro-3-oxo-pentanenitrile | 21.4 mmol, 4 g | FC(C(CC#N)=O)(C(F)(F)F)F | C5H2F5NO
reactant | p-tolyl-hydrazine | 64.1 mmol, 10 g | C1(=CC=C(C=C1)NN)C | C7H10N2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-Pentafluoroethyl-2-p-tolyl-2H-pyrazol-3-ylamine | 3.24 g, 52% yield | FC(C(F)(F)F)(C=1C=C(N(N1)C1=CC=C(C=C1)C)N)F | C12H10F5N3
